US09120822B2
A solution of 5,5-difluoro-3-hydroxy-6-oxo-5,6-dihydro-quinoline-4-carboxylic acid methyl ester (11.1 g, 43.50 mmol, 1.0 eq) in acetone (100 mL) is cooled to 0° C. before the addition of acetic anhydride (8.2 mL, 87.0 mmol, 2.0 eq). After 3 hours stirring at room temperature, solvent is evaporated and the crude product is purified by column chromatography (silica gel, eluent: petroleum ether:ethyl acetate, 5:1, v/v) to afford 3-acetoxy-5,5-difluoro-6-oxo-5,6-dihydro-quinoline-4-carboxylic acid methyl ester as a white solid (5.2 g, 40% yield).

reactant | 5,5-difluoro-3-hydroxy-6-oxo-5,6-dihydro-quinoline-4-carboxylic acid methyl ester | 43.50 mmol, 11.1 g, 1.0 eq | COC(=O)C1=C(C=NC=2C=CC(C(C12)(F)F)=O)O | C11H7F2NO4
reactant | acetic anhydride | 87.0 mmol, 8.2 mL, 2.0 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-acetoxy-5,5-difluoro-6-oxo-5,6-dihydro-quinoline-4-carboxylic acid methyl ester | 5.2 g, 40% yield | COC(=O)C1=C(C=NC=2C=CC(C(C12)(F)F)=O)OC(C)=O | C13H9F2NO5
